### PR TITLE
Updating to rocq9.2/mathcomp2.6

### PR DESCRIPTION
**Pull request by aleksnanevski**

### CODE REVIEW

File: core/auto.v [hunk 1]
```diff
@@ -30,7 +30,7 @@ From pcm Require Import options prelude.
 (*                                                                        *)
 (* Second, in some symmetric cancellation problems, e.g., dom_eq e1 e2,   *)
 (* we *want* to remove only one occurrence from e2 for each component in  *)
-(* e1. Otherwise, we will not produce a sound reduction. E.g.,            *)
+(* e1. Otherewriteise, we will not produce a sound reduction. E.g.,            *)
```
Comment (clayrat) [inline core/auto.v]: Looks like a type introduced  by rw -> rewrite replacement

File: core/auto.v [hunk 2]
```diff
@@ -63,6 +63,10 @@ Variable A : Type.
 
 Structure tagged_elem := XTag {xuntag :> A}.
 
+(* DEVCOMMENT *)
```
Comment (clayrat) [inline core/auto.v]: Should we drop all devcomments? I think there was a script

File: core/finmap.v [hunk 3]
```diff
@@ -516,16 +513,16 @@ case: s=>s p; rewrite /supp /= => H1; rewrite last_ins' //=.
 by case/andP=>H2 H3; rewrite H2; apply: ord_path H3.
 Qed.
 
-(* forward induction principle *)
+(* forewriteard induction principle *)
```
Comment (clayrat) [inline core/finmap.v]: another rw typo

File: core/seqext.v [hunk 4]
```diff
@@ -365,14 +575,14 @@ Lemma head_dflt (x1 x2 x : A) xs :
         head x1 xs = head x2 xs.
 Proof. by case: xs. Qed.
 
-Lemma mem_head (x : A) xs : head x xs \in x :: xs.
+Lemma head_mem (x : A) xs : head x xs \in x :: xs.
 Proof. by case: xs=>[|y ys]; rewrite !inE //= eqxx orbT. Qed.
 
-(* a common pattern of using mem_head that avoids forward reasoning *)
+(* a common pattern of using mem_head that avoids forewriteard reasoning *)
```
Comment (clayrat) [inline core/seqext.v]: One more

File: core/uconsec.v [hunk 5]
```diff
@@ -851,7 +848,7 @@ case: (t1 =P k) C=>[->{t1} C _|/eqP Nt1k C].
 have Nx1 : t1 != x.
 - case: eqP U1=>// <-; move: (consec_mem C).
   by rewrite inE (negbTE Nt1k) /= =>->.
-(* then the proof is straightforward *)
+(* then the proof is straightforewriteard *)
```
Comment (clayrat) [inline core/uconsec.v]: And here

File: pcm/unionmap.v [hunk 6]
```diff
@@ -213,7 +210,7 @@ Definition undefb f := if f is Undef then true else false.
 
 Definition pts k v := upd k v empty.
 
-(* forward induction *)
+(* forewriteard induction *)
```
Comment (clayrat) [inline pcm/unionmap.v]: Here too

File: pcm/unionmap.v [hunk 7]
```diff
@@ -2037,7 +2202,7 @@ Qed.
 
 (* induction over union maps, expressed with pts and \+ *)
 
-(* forward progressing over keys *)
+(* forewriteard progressing over keys *)
```
Comment (clayrat) [inline pcm/unionmap.v]: And here

Comment (aleksnanevski) [reply pcm/unionmap.v]: i just fixed those, will commit soon. but how to fix the dependency? CI says it can't find coq >= 9.2. I guess it wants rocq. Should I just change it by hand in meta-yaml?

**Comment by aleksnanevski** [comment]
@clayrat Hm, how to fix the ci for 9.2?

**Comment by aleksnanevski** [comment]
@clayrat @palmskog Hi guys. I'm having trouble with getting docker to accept to test fcsl-pcm against the docker image mathcomp:2.6.0-rocq-prover-9.2. I'm getting some cryptic error message that it can't satisfy the dependency for coq >= 9.2, and I'm not sure how to make it satisfy it. Any help appreciated.

**Comment by clayrat** [comment]
@aleksnanevski I guess we both fixed it in parallel. The underlying cause is https://github.com/rocq-community/templates/issues/142, i.e. the fact that templates that we use for `meta.yml` still hardcode in `coq` instead of `rocq`. I've commited a `post-generate.sh` script that we could manually run after `generate.sh` to patch the generated `coq-fcsl-pcm.opam` until the template issue is fixed.

**Comment by aleksnanevski** [comment]
Yes, thanks for this. I'm doing some minor fixes now, and plan to make a new release in a few minutes.
